US07081454B2
2-Amino-4-fluoro-6-methyl nitrobenzene:
To the crude 3-Amino-5-fluoro-2-nitro phenyl acetic acid (3.6 g, 16.8 mmol) was added Cu2O (10.1 g, 70.6 mmol) in 120 mL of acetonitrile along with 50 uL of methanol and the suspension was refluxed for 12 hours. The reaction mixture was filtered through Celite and the Celite pad washed with water and ethyl acetate. The filtrate was extracted with ethyl acetate, washed with water and brine, dried over Na2SO4 and concentrated to give 2.95 g of material which by 1H NMR was 80% pure. ESIMS [M+Na]−193; 1H NMR (500 MHz, DMSO) δ 6.67 (s, 2H), 6.56 (dd, J=11, 2.8 Hz, 1H), 6.39 (dd, J=11, 2.8 Hz, 1H), 2.50 (s, 3H).

reactant | 3-Amino-5-fluoro-2-nitro phenyl acetic acid | 16.8 mmol, 3.6 g | NC=1C(=C(C=C(C1)F)CC(=O)O)[N+](=O)[O-] | C8H7FN2O4
reactant | methanol | 50 uL | CO | CH4O
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | 2-Amino-4-fluoro-6-methyl nitrobenzene | 2.95 g | NC1=C(C(=CC(=C1)F)C)[N+](=O)[O-] | C7H7FN2O2
